US08957069B2
2-[(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-2-yl)methyl]-1H-isoindole-1,3(2H)-dione
Potassium phthalimide (702 mg, 3.79 mmol) was added to a solution of DMF (10 mL) containing 2-(iodomethyl)-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran (1.00 g, 3.16 mmol) synthesized in Reference Example 126, and the mixture was stirred at 140° C. for 15 hours. After that, the reaction solution was cooled to room temperature, and water and ethyl acetate were added thereto to separate an organic layer. The organic layer was washed with water and saturated saline, and dried using anhydrous magnesium sulfate, followed by concentration under reduced pressure. The residue was purified by silica gel chromatography (hexane-ethyl acetate 95:5-75:25) to give 730 mg of the title compound (yield: 69%)

reactant | Potassium phthalimide | 3.79 mmol, 702 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | 2-(iodomethyl)-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran | 3.16 mmol, 1.00 g | ICC1(OC2=C(C1)C(=CC(=C2C)C)C)C | C13H17IO
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-2-yl)methyl]-1H-isoindole-1,3(2H)-dione | 730 mg, yield: 69% | CC1(OC2=C(C1)C(=CC(=C2C)C)C)CN2C(C1=CC=CC=C1C2=O)=O | C21H21NO3
